### PR TITLE
[Merged by Bors] - chore: add a few focusing dots 3

### PR DESCRIPTION
**Pull request by adomani**
More missing cdots found by the multiGoal linter (#12339).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/LocalProperties/Basic.lean [hunk 1]
```diff
@@ -240,8 +240,8 @@ theorem RingHom.PropertyIsLocal.ofLocalizationSpan (hP : RingHom.PropertyIsLocal
   rintro ⟨_, r, hr, rfl⟩
   rw [← IsLocalization.map_comp (M := Submonoid.powers r) (S := Localization.Away r)
     (T := Submonoid.powers (f r))]
-  apply hP.StableUnderCompositionWithLocalizationAway.right _ r
-  exact hs' ⟨r, hr⟩
+  · apply hP.StableUnderCompositionWithLocalizationAway.right _ r
+    exact hs' ⟨r, hr⟩
```
Comment (kim-em) [inline Mathlib/RingTheory/LocalProperties/Basic.lean:244]: Are there actually two goals here, and closing the first one discharges the second as a side effect?

File: Mathlib/RingTheory/PowerSeries/Basic.lean [hunk 2]
```diff
@@ -603,13 +603,14 @@ lemma coeff_one_pow (n : ℕ) (φ : R⟦X⟧) :
...
-          conv => enter [1, 2, 1]; rw [mul_comm]
-          rw [mul_assoc, ← one_add_mul, add_comm, mul_assoc]
+          on_goal 1 =>
+            conv => lhs; arg 2; rw [mul_comm, ← mul_assoc]
+            move_mul [← (constantCoeff R) φ ^ (n' - 1)]
+            conv => enter [1, 2, 1, 1, 2]; rw [← pow_one (a := constantCoeff R φ)]
+            rw [← pow_add (a := constantCoeff R φ)]
+            conv => enter [1, 2, 1, 1]; rw [Nat.sub_add_cancel h']
+            conv => enter [1, 2, 1]; rw [mul_comm]
+            rw [mul_assoc, ← one_add_mul, add_comm, mul_assoc]
```
Comment (kim-em) [inline Mathlib/RingTheory/PowerSeries/Basic.lean:613]: What's going on here?

File: Mathlib/RingTheory/LocalProperties/Basic.lean (hunk 1 above)
Comment (adomani) [reply Mathlib/RingTheory/LocalProperties/Basic.lean:244]: Yes, the other goal is
```lean
Submonoid.powers r ≤ Submonoid.comap f (Submonoid.powers (f r))
```
and it disappears once the previous goal is closed.

File: Mathlib/RingTheory/PowerSeries/Basic.lean (hunk 2 above)
Comment (adomani) [reply Mathlib/RingTheory/PowerSeries/Basic.lean:613]: I'm not sure about the `on_goal`: in this case
```
· conv => lhs; arg 2; rw [mul_comm, ← mul_assoc]
  move_mul [← (constantCoeff R) φ ^ (n' - 1)]
  conv => enter [1, 2, 1, 1, 2]; rw [← pow_one (a := constantCoeff R φ)]
  rw [← pow_add (a := constantCoeff R φ)]
  conv => enter [1, 2, 1, 1]; rw [Nat.sub_add_cancel h']
  conv => enter [1, 2, 1]; rw [mul_comm]
  rw [mul_assoc, ← one_add_mul, add_comm, mul_assoc]
  conv => enter [1, 2]; rw [mul_comm]
exact h'
```
would have worked equally well.

Comment (adomani) [reply Mathlib/RingTheory/PowerSeries/Basic.lean]: I used the focusing dot instead.

**Review by grunweg — COMMENTED** [review]
I'm wondering if commenting about the "handling two goals at once" in the two more tricky proofs would be useful. Apart from that, LGTM. Thanks!
maintainer merge

**Comment by kim-em** [comment]
bors merge
